### ISSUE TITLE
proof: a cited conditional lemma goes unused because `simp_all` unfolds its head function first

### ISSUE THREAD

**Issue by jasisz** [jasisz/aver#1419]
`buildOk` needs the universal `when`-law `pushOk` at the induction hypothesis, and it cites it, but it still falls to `sorry`. The closers call `simp_all [build, ok, push_law_pushOk]`. `ok` is non-recursive, so simp unfolds it into its `match` in both the goal and the IH before it tries the lemma. After that the goal no longer has the shape `ok (push x xs) = true`, and Lean reports `push_law_pushOk` as an unused simp argument. With a plain alias `fn ok(xs) = allPos(xs)` both laws close; the `match` in `ok` is what triggers it.

```aver
module CitedHead
    intent =
        "buildOk needs the conditional lemma pushOk at the induction hypothesis."
        "ok is a non-recursive wrapper, so unfolding it hides pushOk's pattern."

fn allPos(xs: List<Int>) -> Bool
    ? "Every element is positive."
    match xs
        [] -> true
        [h, ..t] -> match h > 0
            true -> allPos(t)
            false -> false

verify allPos
    allPos([1, 2]) => true
    allPos([1, 0]) => false

fn ok(xs: List<Int>) -> Bool
    ? "The list is fit to use: its head is positive and so is the rest."
    match xs
        [] -> true
        [h, ..t] -> Bool.and(h > 0, allPos(t))

verify ok
    ok([3]) => true

fn push(x: Int, xs: List<Int>) -> List<Int>
    ? "Keeps x only when it is positive."
    match x > 0
        true -> List.prepend(x, xs)
        false -> xs

verify push
    push(0, [1]) => [1]

fn build(xs: List<Int>) -> List<Int>
    ? "Pushes every element of xs, last first."
    match xs
        [] -> []
        [h, ..t] -> push(h, build(t))

verify build
    build([3, -1, 2]) => [3, 2]

verify push law pushOk
    given x: Int = [-1, 0, 1, 2]
    given xs: List<Int> = [[], [1], [2, 3], [1, 0]]
    when ok(xs)
    ok(push(x, xs)) holds

verify build law buildOk
    given xs: List<Int> = [[], [1], [3, -1, 2], [0, 0], [-5, 4]]
    ok(build(xs)) holds
```

```text
{"backend":"lean",…,"sorries":1,"sorry_laws":["build.buildOk"],"universal":false,"universal_laws":1}
   push.pushOk universal
   build.buildOk failed
```

The goal after the portfolio's `simp_all`:

```lean
ih : (match build t with | [] => true | h :: t => decide (0 < h) && allPos t) = true
⊢ (match push h (build t) with | [] => true | h :: t => decide (0 < h) && allPos t) = true
-- warning: This simp argument is unused: push_law_pushOk
```

A two-line proof closes it:

```lean
theorem buildOk_hand : ∀ (xs : List Int), ok (build xs) = true := by
  intro xs
  induction xs with
  | nil => rw [build]; rfl
  | cons h t ih => rw [build]; exact push_law_pushOk h (build t) ih
-- 'buildOk_hand' depends on axioms: [propext, Quot.sound]
```

When a cited lemma's conclusion is headed by a function of the cone, that function should stay folded in the call that uses the lemma. Alternatively, an `exact <lemma> … ih` / `apply <lemma>` arm could run before the unfolding `simp_all`.

`main` at `6df7aa70` (aver 0.30.0-dev), Lean 4.32.0, `aver proof <file> --verify-mode auto -o out --check-json`.
